US08071565B2
Step 2: 1-((R)-1-[9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(2H-tetrazol-5-yl)-tetrahydro-furan-2-yl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-3-pyridin-3-yl-urea
A solution of 1-{(R)-1-[9-[(2R,3R,4S,5R)-5-(2-Benzyl-2H-tetrazol-5-yl)-3,4-dihydroxy-tetrahydro-furan-2-yl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-3-pyridin-3-yl-urea in EtOH under an inert atmosphere of argon is treated with 10% palladium on carbon followed by ammonium formate. The reaction mixture is heated to 50° C. for 4 hours and then filtered through Celite®. The filtrate is concentrated in vacuo to afford the title compound.

reactant | 1-{(R)-1-[9-[(2R,3R,4S,5R)-5-(2-Benzyl-2H-tetrazol-5-yl)-3,4-dihydroxy-tetrahydro-furan-2-yl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-3-pyridin-3-yl-urea | C(C1=CC=CC=C1)N1N=C(N=N1)[C@@H]1[C@H]([C@H]([C@@H](O1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1)O)O | C41H41N13O4
reactant | ammonium formate | C(=O)[O-].[NH4+]
solvent | EtOH | CCO | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-((R)-1-[9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(2H-tetrazol-5-yl)-tetrahydro-furan-2-yl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-3-pyridin-3-yl-urea | O[C@H]1[C@@H](O[C@@H]([C@H]1O)C=1N=NNN1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1 | C34H35N13O4
